US08029979B2
Phenylthiourea Functionalisation of Aminopropylsilylated Glass Surfaces
4-carboxyphenylthiourea (Lancaster, 13047) was dissolved to 0.2M in DMF. The resultant mixture was activated by adding a half equivalent of DIC for 15 min at room temperature. Aminopropylsilylated glass surfaces purified with compressed air (2.5×7.5 cm; Sigma, Silane-Prep™, S4651) were coated with the activated solution thus obtained and incubated for three hours at room temperature. The glass surfaces thus treated were then washed five times using respectively 30 mL of DMF for 3 minutes each at room temperature. After washing three times for three minutes each using respectively 30 mL of DCM at room temperature, the glass surfaces were dried and stored at 4° C. until further use.

reactant | 4-carboxyphenylthiourea | C(=O)(O)C1=CC=C(C=C1)NC(=S)N | C8H8N2O2S
reactant | DIC | a half equivalent | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | CN(C)C=O | C3H7NO
product | Phenylthiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
